US07087710B2
PREPARATION OF 3-METHYL-3-TOSYLMETHYLOXETANE
3-methyl-3-oxetanemethanol (100 g, 0.98 mol) was dissolved in 250 mL methylene chloride, and a 35% solution of sodium hydroxide (143.60 g, 1.08 mol)was added, and the reaction was cooled to 0° C. A solution of p-toluenesulfonyl chloride was added (186.67 g, 0.98 mol) in 375 mL methylene chloride was added over 1 hour. A white precipitate formed immediately. The reaction was stirred for 10 additional hours. 1000 mL of water was added. The dichloromethane solution layer was then removed, and dried with sodium sulfate, and the solvent was removed. Yield: 217.77 grams of 3-methyl-3-tosylmethyloxetane as white crystals, 87%.

reactant | 3-methyl-3-oxetanemethanol | 0.98 mol, 100 g | CC1(COC1)CO | C5H10O2
reactant | sodium hydroxide | 1.08 mol, 143.60 g | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 1000 mL | O | H2O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 375 mL | C(Cl)Cl | CH2Cl2
product | 3-METHYL-3-TOSYLMETHYLOXETANE | CC1(COC1)CS(=O)(=O)C1=CC=C(C)C=C1 | C12H16O3S
